US05294713
WORKING EXAMPLE 72 (S)-2-Benzyl-1-t-butoxycarbonyl-4-cyanomethyl-1,2,3,4-tetrahydropyrazine-3-one
To a mixture of 3.0 g of 2,2-diethoxyethylaminoacetonitrile, 4.85 g of N-t-butoxycarbonyl-L-phenylalanine and 50 ml of methylene chloride was added 3.6 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride, which was stirred for 4 hours at room temperature. The reaction mixture was concentrated under reduced pressure. To the concentrate were added 100 ml of ethyl acetate and 50 ml of water. The mixture was shaken. The organic layer was separated, washed with water, dried over anhydrous magnesium sulfate and, then, concentrated under reduced pressure. The concentrate (7.0 g) was dissolved in 100 ml of ethyl acetate. To the solution was added 0.5 g of p-toluenesulfonic acid, and the mixture was stirred for 4 hours at 75° to 85° C. The reaction mixture was cooled and washed with an aqueous solution of sodium hydrogencarbonate, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The concentrate was purified by means of a silica-gel column chromatography (eluent: hexane-ethyl acetate=3:1), followed by recrystallization from ethyl acetate to afford 3.7 g of colorless prisms, m.p.160°-162° C.

reactant | 2,2-diethoxyethylaminoacetonitrile | 3.0 g | C(C)OC(CNCC#N)OCC | C8H16N2O2
reactant | N-t-butoxycarbonyl-L-phenylalanine | 4.85 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 3.6 g | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | (S)-2-Benzyl-1-t-butoxycarbonyl-4-cyanomethyl-1,2,3,4-tetrahydropyrazine-3-one | 3.7 g | C(C1=CC=CC=C1)[C@@H]1N(C=CN(C1=O)CC#N)C(=O)OC(C)(C)C | C18H21N3O3
